US07244758B2
Synthesis of N-(1-Benzhydryl-pyrrolidin-3-ylmethyl)-2-diphenylamino-acetamide
To a solution of C-(1-benzhydryl-pyrrolidin-3-yl)-methylamine (0.26 g, 0.97 mmol) in dry CH2Cl2 (20 ml) was added diphenylaminoacetic acid (0.22 g, 0.97 mmol) under nitrogen. To the reaction was added EDC (0.37 g, 1.95 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue dissolved in ethyl acetate: water (10:1) (100 ml). The organic was washed with water (25 ml, 2×) and 10% NaOH (25 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using hexane:ethyl acetate (3:1) to give the desired product in 75% yield.

reactant | C-(1-benzhydryl-pyrrolidin-3-yl)-methylamine | 0.97 mmol, 0.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(CC1)CN | C18H22N2
reactant | diphenylaminoacetic acid | 0.97 mmol, 0.22 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)CC(=O)O | C14H13NO2
reactant | EDC | 1.95 mmol, 0.37 g
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(1-Benzhydryl-pyrrolidin-3-ylmethyl)-2-diphenylamino-acetamide | 75% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(CC1)CNC(CN(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H33N3O
